US07691863B2
a) 5-Chloro-6-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester
From a mixture of 1 g (3.98 mmol) 6-bromo-5-chloro-pyrazine-2-carboxylic acid and 0.508 g (5.97 mmol) piperidine in 1 mL DMF 0.61 g (60%) of the title compound were filtered off as slightly yellow crystals. m/z (ES+): 256.4 (M+H).

reactant | 6-bromo-5-chloro-pyrazine-2-carboxylic acid | 3.98 mmol, 1 g | BrC1=C(N=CC(=N1)C(=O)O)Cl | C5H2BrClN2O2
reactant | piperidine | 5.97 mmol, 0.508 g | N1CCCCC1 | C5H11N
reactant | DMF | 1 mL, 0.61 g | CN(C)C=O | C3H7NO
product | 5-Chloro-6-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1)Cl)N1CCCCC1 | C11H14ClN3O2
